US05658923
Triethylamine 44.1 μl was added to a methylene chloride of (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride 50.0 mg and stirred at 0° C. for 30 min. 3-(2-adamantyl) propionic acid 60.4 mg and WSC 65.7 mg were added therein, then temperature of the reaction mixture was gradually changed to room temperature and stirred for 13 hours. The reaction mixture was washed with saturated aqueous sodium chloride solution and dried by anhydrous sodium sulfate. After filtering the drying agent, the filtrate was concentrated in vacuo to obtain crude (IS)-3-[3-(2-adamantyl)propionyl]-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane. The concentrate was added to THF 5 ml solution of lithium aluminum hydride 12.0 mg and refluxed under heating for 3 hours. The reaction mixture was cooled, then water was added thereto and the insoluble material was removed by filtration. The filtrate was concentrated in vacuo. The thus obtained residue was purified by means of, silica gel column chromatography (Wako gel, C200, chloroform) to obtain the product.

reactant | Triethylamine | 44.1 μl | C(C)N(CC)CC | C6H15N
reactant | (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride | 50.0 mg | Cl.C[C@]12CNCC(CC1)C2(C)C
reactant | 3-(2-adamantyl) propionic acid | 60.4 mg | C12C(C3CC(CC(C1)C3)C2)CCC(=O)O | C13H20O2
reactant | WSC | 65.7 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (IS)-3-[3-(2-adamantyl)propionyl]-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane | C12C(C3CC(CC(C1)C3)C2)CCC(=O)N2C[C@]3(CCC(C2)C3(C)C)C | C23H37NO
